US04335142
PREPARATION OF 2-CHLORO-1-(p-t-BUTYLPHENYLSULFONYL)ETHYL PHENYL SULFIDE
To a solution of 21.0 g (93.7 moles) of p-t-butylphenyl vinyl sulfone in 100 ml of methylene chloride at 20° C. was added 14.0 ml (17,5 g, 121 mmoles) of benzenesulfenyl chloride. After 75 minutes the initial red color of the solution had changed to orange. In the same time the temperature of the solution rose to 26° C. After three days at 23° C. the solvent was removed by evaporation. The semicrystalline residue was recrystallized from ethyl acetate-pentane (1:2) to give a first crop of 18.3 g (53%), m.p. 104.0°-105.5° C. and subsequent crops of 8.3 and 3.0 g, for a total yield of 86%.

reactant | p-t-butylphenyl vinyl sulfone | 93.7 moles, 21.0 g | C(=C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C12H16O2S
reactant | benzenesulfenyl chloride | 121 mmoles, 14.0 ml, 17,5 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-CHLORO-1-(p-t-BUTYLPHENYLSULFONYL)ETHYL PHENYL SULFIDE | yield of 86% | C1(=CC=CC=C1)SC(CCl)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C18H21ClO2S2
